US09315521B2
To a solution of 3-(bromomethyl)-4-chloro-1-methyl-1H-pyrazole (61.7 mmol) in absolute ethanol (250 mL) was added 6-methyl-2-sulfanylpyrimidin-4-ol (5.84 g, 41.1 mmol) and triethylamine (23.0 mL, 165 mmol) at 0° C. The mixture was stirred at room temperature overnight. The white solid was filtered and washed with diethyl ether (300-500 mL). The filtrate was recovered, and the solvent was evaporated. The residue triturated in water, filtered, and washed with water (3×300 mL) and then DCM (50 mL). The solid was died under vacuum overnight. 2-{[(4-chloro-1-methyl-1H-pyrazol-3-yl)methyl)sulfanyl}-6-methylpyrimidin-4-ol was obtained as a white solid (5.48 g, 49% yield for 2 steps); 1H NMR (400 MHz, DMSO-d6): δ 2.20 (bs, 3H), 3.78 (s, 3H), 4.35 (s, 2H), 6.05 (bs, 1H), 7.92 (s, 1H); LRMS (ES+) m/z 271 (100%, M+1); 273 (35%, M+3).

reactant | 3-(bromomethyl)-4-chloro-1-methyl-1H-pyrazole | 61.7 mmol | BrCC1=NN(C=C1Cl)C | C5H6BrClN2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 41.1 mmol, 5.84 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 165 mmol, 23.0 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-{[(4-chloro-1-methyl-1H-pyrazol-3-yl)methyl)sulfanyl}-6-methylpyrimidin-4-ol | 49% yield | ClC=1C(=NN(C1)C)CSC1=NC(=CC(=N1)O)C | C10H11ClN4OS
